US04151143
Here, the monomer mixture (135 gms.) was composed of 7% β-hydroxyethyl acrylate, 46% butyl acrylate and 47% methyl methacrylate. The procedure involved stirring a solution of 2.5 gms. of DMAE in 145 gms. of de-airated water into the emulsion of stage I, then stirring in the mixture of monomers. Finally, 0.4 gms. of ammonium persulfate in 18 grams of water were added dropwise. Mild heating and stirring were then applied until the flask contents reached 50° C. The heat was then removed and the contents held at 50°-55° C. for four hours. After cooling to room temperature the viscosity was 200 centipoises, pH 7.5 and solids 44.1%. A 0.003" wet film on sheet aluminum air dired clear and glossy. When the copolymer emulsion was blended with HMMM to yield 18% of the latter and catalyzed with 0.55% p-TSA (based on the amino resin) a 0.003" wet film on sheet aluminum baked in 20' at 250° F. to a clear, hard, glossy film having reverse impact resistance of >60 inch pounds, F pencil hardness, and resistance to 200 rubs with a methyl ethyl ketone soaked towel.

reactant | β-hydroxyethyl acrylate | C(C=C)(=O)OCCO | C5H8O3
reactant | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | DMAE | CN(C)CCO | C4H11NO
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 18 grams | O | H2O
product | p-TSA | 0.55% | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
